US09023840B2
Step 1: 5-Chloro-N-[(1S)-1-cyclopropylethyl]pyrazine-2-carboxamide
A mixture of 5-chloropyrazine-2-carboxylic acid (0.5 g, 3 mmol), (1S)-1-cyclopropylethanamine (0.30 g, 3.5 mmol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (1.8 g, 4.7 mmol) and N,N-diisopropylethylamine (1.6 mL, 9.5 mmol) in methylene chloride (5 mL) was stirred at room temperature overnight (22 h.). The mixture was concentrated under reduced pressure. The residue was was purified by flash chromatography on a silica gel column with methanol in dichloromethylene (0-5%) to afford the desired product (0.54 g). LCMS (M+H)+: m/z=226.1.

reactant | 5-chloropyrazine-2-carboxylic acid | 3 mmol, 0.5 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | (1S)-1-cyclopropylethanamine | 3.5 mmol, 0.30 g | C1(CC1)[C@H](C)N | C5H11N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 4.7 mmol, 1.8 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 9.5 mmol, 1.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-[(1S)-1-cyclopropylethyl]pyrazine-2-carboxamide | 0.54 g | ClC=1N=CC(=NC1)C(=O)N[C@@H](C)C1CC1 | C10H12ClN3O
